US07943613B2
To a degassed solution of 1-bromo-4-tert-butylbenzene (5 g, 23.5 mmol) in tetrahydrofuran (25 mL) was added in the following order: copper(I) iodide (134 mg, 0.704 mmol), tetrakis(triphenylphosphine)palladium (813 mg, 0.704 mmol), and 1,8-diazabicyclo[5.4.0]-undec-7-ene (4.2 mL, 28.1 mmol). The resulting mixture was degassed again and a solution of propargyl alcohol (1.64 mL, 28.2 mmol) in tetrahydrofuran (2 mL) was added over period of 10 min. The reaction mixture was slowly heated up to 50° C. and then stirred at this temperature over night. The mixture was diluted with ether (50 mL), washed with water (20 mL), 15% hydrochloric acid (2×20 mL) and saturated aqueous solution of sodium hydrogen carbonate (25 mL). The organic solution was dried with anhydrous magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography (silica gel Fluka 60, hexanes/ethyl acetate 5:1) affording 3-(4-tert-butylphenyl)prop-2-yn-1-ol.

reactant | 1-bromo-4-tert-butylbenzene | 23.5 mmol, 5 g | BrC1=CC=C(C=C1)C(C)(C)C | C10H13Br
reactant | 1,8-diazabicyclo[5.4.0]-undec-7-ene | 28.1 mmol, 4.2 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | propargyl alcohol | 28.2 mmol, 1.64 mL | C(C#C)O | C3H4O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | ether | 50 mL | CCOCC | C4H10O
catalyst | copper(I) iodide | 0.704 mmol, 134 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 0.704 mmol, 813 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(4-tert-butylphenyl)prop-2-yn-1-ol | C(C)(C)(C)C1=CC=C(C=C1)C#CCO | C13H16O
